US07968581B2
Step 4: 4-[4-(4-Cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 675 mg of 4-[2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile and 622 mg of 4-bromo-2-trifluoromethylbenzonitrile in DMAC (2.5 mL) 214 mg of copper (I) oxide is added. The mixture is refluxed overnight at 130° C. The mixture is concentrated, taken in DCM, washed with a 10% aqueous ammonia solution and brine. The organic phase is dried over magnesium sulfate, concentrated under vacuum and purified on silica gel (ethyl acetate/cyclohexane: 0/100 to 50/50) to give the desired compound.

reactant | 4-[2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile | 675 mg | O=C1NC(C(N1)(COCC=C)C1=CC=C(C#N)C=C1)=O | C14H13N3O3
reactant | 4-bromo-2-trifluoromethylbenzonitrile | 622 mg | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
solvent | DMAC | 2.5 mL, 214 mg | CC(=O)N(C)C | C4H9NO
catalyst | copper (I) oxide | [Cu-]=O
product | 4-[4-(4-Cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | C(#N)C1=CC=C(C=C1)C1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)COCC=C | C22H15F3N4O3
